US07378525B2
N-[4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalen-1-yl]-2-methoxy-benzamide (C-104)
The title compound was prepared following the general procedure in Scheme 5, beginning with 4-(2-methoxy-benzoylamino)-naphthalene-1-sulfonyl chloride, and substituting butyric chloride and triethylamine for 2-isocyanato-propane. LC/MS m/z 508 (M−H)−, 510 (M+H)+

reactant | 4-(2-methoxy-benzoylamino)-naphthalene-1-sulfonyl chloride | COC1=C(C(=O)NC2=CC=C(C3=CC=CC=C23)S(=O)(=O)Cl)C=CC=C1 | C18H14ClNO4S
reactant | 2-isocyanato-propane | N(=C=O)C(C)C | C4H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalen-1-yl]-2-methoxy-benzamide | C(CCC)(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C1=C(C=CC=C1)OC)=O | C27H31N3O5S
